US05780482
A mixture of ethyl 4-chloro-6-ethoxy-1,5-naphthyridine-3-carboxylate (2.1 g), 2-ethoxy-5-aminopyridine (1.08 g), anhydrous potassium carbonate (2.17 g) and THF (60 ml) was stirred at ambient temperature for 48 hours. The mixture was evaporated to dryness and water added to the residue. The mixture was extracted with dichloromethane to give an oily solid. This solid was dissolved in IMS (20 ml) and the solution saturated with hydrogen chloride gas while cooling in ice. Ether was added to induce precipitation. The mixture was filtered to give ethyl 6-ethoxy-4-(2-ethoxy-5-pyridylamino)-1,5-naphthyridine-3-carboxylate hydrochloride, m.p. 187°-189° C. Borderline active (1/1) at 30 mg/kg.

reactant | ethyl 4-chloro-6-ethoxy-1,5-naphthyridine-3-carboxylate | 2.1 g | ClC1=C(C=NC2=CC=C(N=C12)OCC)C(=O)OCC | C13H13ClN2O3
reactant | 2-ethoxy-5-aminopyridine | 1.08 g | C(C)OC1=NC=C(C=C1)N | C7H10N2O
reactant | potassium carbonate | 2.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrogen chloride | Cl | ClH
solvent | Ether | CCOCC | C4H10O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | ethyl 6-ethoxy-4-(2-ethoxy-5-pyridylamino)-1,5-naphthyridine-3-carboxylate hydrochloride | Cl.C(C)OC=1N=C2C(=C(C=NC2=CC1)C(=O)OCC)NC=1C=CC(=NC1)OCC | InChI=1S/C20H22N4O4.ClH/c1-4-26-16-9-7-13(11-22-16)23-18-14(20(25)28-6-3)12-21-15-8-10-17(27-5-2)24-19(15)18;/h7-12H,4-6H2,1-3H3,(H,21,23);1H
